US08648086B2
Sodium hydride (144 mg, 6 mmol) was added to a solution of 4-nitroindole (973 mg, 6 mmol) in THF, and the resulting mixture was stirred for 4 h. 1-(t-Butyloxycarbonyl)-3-chloromethyl-7-azaindole (Int-14, 1.5 g, 5.5 mmol) was then added. Upon completion (by TLC), the reaction was quenched with saturated aqueous ammonium chloride. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to dryness. The residue was purified by flash column chromatography to provide 3-[(4-nitro-1H-indol-1-yl)methyl]-1H-pyrrolo[2,3-b]pyridine (547 mg, 34%).

reactant | Sodium hydride | 6 mmol, 144 mg | [H-].[Na+]
reactant | 4-nitroindole | 6 mmol, 973 mg | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | 1-(t-Butyloxycarbonyl)-3-chloromethyl-7-azaindole | 5.5 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CN=C12)CCl | C13H15ClN2O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4-nitro-1H-indol-1-yl)methyl]-1H-pyrrolo[2,3-b]pyridine | 547 mg, 34% | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CC1=CNC2=NC=CC=C21 | C16H12N4O2
